US07521453B2
5-Bromo-2-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidine
A solution of 5-bromo-2,4-dichloropyrimidine (10.0 g, 44 mmol), 3-amino-5-methyl-1H-pyrazole (6.0 g, 62 mmol) and N,N-diisopropylethylamine (9.20 ml, 53 mmol) in 1-butanol (80 ml) was heated at 85° C. for 12 hours. The mixture was allowed to cool to ambient temperature and the resulting precipitate collected by filtration. The solid product was washed with ethanol and dried to give the sub-titled compound (10.8 g, 85%). 1H NMR (DMSO): δ 2.23 (s, 3H), 6.23 (s, 1H), 8.39 (s, 1H), 9.21 (s, 1H), 12.27 (s, 1H); MS: m/z 290 (MH)+.

reactant | 5-bromo-2,4-dichloropyrimidine | 44 mmol, 10.0 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | 3-amino-5-methyl-1H-pyrazole | 62 mmol, 6.0 g | NC1=NNC(=C1)C | C4H7N3
reactant | N,N-diisopropylethylamine | 53 mmol, 9.20 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1-butanol | 80 ml | C(CCC)O | C4H10O
product | 5-Bromo-2-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidine | 10.8 g, 85% | BrC=1C(=NC(=NC1)Cl)NC1=NNC(=C1)C | C8H7BrClN5
